US06235789B1
To a solution of (1,2,3,4-tetrahydro-7-methoxy-1-naphthylidene)acetonitrile (1.0 g, 5.02 mmol) in ethanol (10 ml) were added a saturated ammonia/ethanol solution (5 ml) and Raney nickel (W-2, 1 g). The mixture was stirred for 4 hours at 50° C. under hydrogen atmosphere (3-4 kgf/cm2). The Raney nickel was filtered off and, then, the solvent was distilled off under reduced pressure to give 1-(2-aminoethyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene. To a solution of this 1-(2-aminoethyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene and triethylamine (0.76 g, 7.53 mmol) in THF (20 ml) was gradually added dropwise, under ice-cooling, cyclopropanecarbonyl chloride (0.63 g, 6.02 mmol). The mixture was stirred for 30 minutes at room temperature. The reaction mixture was poured into water. The organic layer was subjected to extraction with chloroform. The extract solution was washed with brine and water, which was then dried over anhydrous magnesium sulfate, followed by distilling off the solvent. The residue was purified by means of a silica gel column chromatography (ethyl acetate:hexane=2:8) to give the above-titled compound (1.04 g, yield 76%, oil).

reactant | (1,2,3,4-tetrahydro-7-methoxy-1-naphthylidene)acetonitrile | 5.02 mmol, 1.0 g | COC1=CC=C2CCCC(C2=C1)=CC#N | C13H13NO
reactant | ammonia ethanol | 5 ml | N.C(C)O
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Raney nickel | 1 g | [Ni] | Ni
product | 1-(2-aminoethyl)-7-methoxy-1,2,3,4-tetrahydronaphthalene | NCCC1CCCC2=CC=C(C=C12)OC | C13H19NO
